Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Left upper extremity weakness and clumsiness
 
Major Surgical or Invasive Procedure:
NA
 
History of Present Illness:
___ is a ___ LH F w PMHx of prolactimona s/p 
resection
___ ago and "borderline" hypertension (no medications) who
presents with acute onset left arm weakness and clumsiness. Ms.
___ reports that she was cooking short ribs this afternoon and
when she went to go flip the ribs (at ~14:45), she noticed that
she was having more difficulty than she would have expected (she
makes a supinating motion to demonstrate). Her husband was with
her in the kitchen and reports that aside from Ms. ___
appearing "anxious," he did not notice any other abnormalities
(no speech difficulty, no confusion, no facial droop, no 
abnormal
movements). Ms. ___ found the episode concerning and called 
her
PCP to schedule on urgent visit. 

Before leaving the house, she went upstairs to brush her teeth
and at that time noticed a great deal of left hand clumsiness.
She states that she felt like she was having more difficulty 
with
"fine motor" tasks and denied frank weakness. She drove herself
to her PCP. An exam there was normal, but V3 ST elevations were
seen on an EKG and she was transferred to ___ ED for further
evaluation.

In the ED, she reports that her symptoms while somewhat vague 
and
difficult to describe, have not fully resolved. She states that
when signing a form in the ED, she still felt that her left hand
was clumsy. Overall, though, it is difficult for her to trend 
her
symptoms as they are only provoked by specific movements and
tasks. She does state that her symptoms now seem to consist for
of "clumsiness" than weakness. She denies any sensory 
alterations
associated with her clumsiness.

Ms. ___ reports that prior to this episode, she was in her
usual state of health. In the hours before the episode, she and
her husband had been outside chopping ice and shoveling snow -
she did not notice any weakness or clumsiness at that time.

On neurological ROS, Ms. ___ denies headache, loss of vision,
blurred vision, diplopia, dysarthria, dysphagia, vertigo,
tinnitus or hearing difficulty. Denies difficulties producing or
comprehending speech. Denies leg or face weakness, numbness, or
other sensory alterations. parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.

On general review of systems, Ms. ___ denies recent fever or
illness. No recent weight loss or gain. Denies shortness of
breath, chest pain, or palpitations. Denies nausea, vomiting,
diarrhea, or abdominal pain. 
 
Past Medical History:
- prolactinoma, s/p resection ___ years ago
- borderline hypertensive
-- has not been on any medications, but states that her PCP ___
"probably going to start something" after her next follow up in
___
 
Social History:
___
Family History:
No family history of strokes or CAD.
Father with hypertension, mother with valvular heart disease.
 
Physical Exam:
Physical Exam:
VS afebrile P:82 R:16 BP:132/80 SaO2:100RA
GEN - well-appearing female, no acute distress
CV - RRR, extremities WWP
RESP - CTAB, normal WOB
ABD - soft, non-tender, non-distended

Neurologic:
MENTAL STATUS: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects. Able to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. Good knowledge of
current events. There was no evidence of apraxia or neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 4 to 2mm and brisk. VFF to finger counting.
III, IV, VI: EOMI without nystagmus. Normal saccades.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

MOTOR: Normal bulk, tone throughout. No pronator drift. No
adventitious movements noted. No asterixis noted. Able to write
well with left hand - handwriting looks baseline.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

SENOSRY: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. 

DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was mute bilaterally.

COORD: No intention tremor, no dysdiadochokinesia noted. No
dysmetria on FNF or HKS bilaterally. No overshoot. No check
reflex. ?Slightly slowed RAM w LUE, without subjective sensation
of clumsiness. No evidence of truncal ataxia.

GAIT - Good initiation. Narrow-based, normal stride and arm 
swing. Romberg absent.

============================================================
on discharge the patient is afebrile with stable VS. 
Her neuro exam is unchanged from admission. RAM are at times 
mildly slower appearing on the left, however this is subtle if 
present. 
 
Pertinent Results:
___ 06:00AM BLOOD Triglyc-65 HDL-120 CHOL/HD-1.6 LDLcalc-62
___ 06:00AM BLOOD TSH-2.9
___ 06:00AM BLOOD %HbA1c-5.3 eAG-105
___ 04:20PM BLOOD cTropnT-<0.01
___ 06:00AM BLOOD ___ ___
No acute intracranial abnormality. Please note that MRI is more 
sensitive for the detection of acute infarction. 

___ MRI/MRA
1. No evidence of hemorrhage, mass effect, or infarct. 
2. Mild presumed sequelae of chronic small vessel ischemic 
disease. 
3. No evidence of occlusion or dissection within the vasculature 
of the head and neck. 

___ ECHO
Normal study. Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified. No definite structural 
cardiac source of embolism identified.
 
Brief Hospital Course:
___ is a ___ yo LH-woman with PMH "borderline" 
hypertension and remote prolactimona s/p resection who presented 
with acute onset left arm weakness and clumsiness. Her deficits 
were transient. Her MRI was without acute infarct. She ___ 
suffered a TIA. Her workup was other wise unremarkable with 
normal ECHO and stroke labs. She was started on asa 81mg daily 
and lisinopril 5mg daily. She was DCed with a 30 day cardiac 
event monitor. The patient will follow up with her at___ 
___ providers. 

LDL (62) A1C (5.3)

=
=
=
=
=
=
=
================================================================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes [performed 
and documented by admitting resident] – () No  
2. DVT Prophylaxis administered by the end of hospital day 2? 
(x) Yes - () No  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No  
4. LDL documented (required for all patients)? (x) Yes (LDL = 
62) - () No  
5. Intensive statin therapy administered? () Yes - (x) No [if 
LDL >= 100, reason not given: ____ ]  
(intensive statin therapy = simvastatin 80mg, simvastatin 
80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, rosuvastatin 
20mg or 40mg, for LDL >= 100)  
6. Smoking cessation counseling given? () Yes - (x) No [if no, 
reason: (x) non-smoker - () unable to participate]  
7. Stroke education given (written form in the discharge 
worksheet)? (x) Yes - () No  
(stroke education = personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup)  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No [if no, reason not assessed: ____ ]  
9. Discharged on statin therapy? () Yes - (x) No [if LDL >= 100 
or on a statin prior to hospitalization, reason not discharged 
on statin: ____ ]  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No [if no, reason not 
discharge on anticoagulation: ____ ] - (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 5 mg PO DAILY 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
transient ischemic attack 
hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  
You were hospitalized due to symptoms of weakness and left arm 
clumsiness resulting from a transient ischemic attack (TIA), a 
condition in which a blood vessel providing oxygen and nutrients 
to the brain is temporarily blocked by a clot. Damage to the 
brain from being deprived of its blood supply can result in a 
variety of symptoms.  

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
- "borderline" hypertension  

We are changing your medications as follows:  
- START aspirin 81mg daily 
- START lisinopril 5mg daily 
  
Please take your other medications as prescribed.  
Please followup with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
- sudden partial or complete loss of vision  
- sudden loss of the ability to speak words from your mouth  
- sudden loss of the ability to understand others speaking to 
you  
- sudden weakness of one side of the body  
- sudden drooping of one side of the face  
- sudden loss of sensation of one side of the body  
- sudden difficulty pronouncing words (slurring of speech)  
- sudden blurring or doubling of vision  
- sudden onset of vertigo (sensation of your environment 
spinning around you)  
- sudden clumsiness of the arm and leg on one side or sudden 
tendency to fall to one side (left or right)  
- sudden severe headache accompanied by the inability to stay 
awake  
It was a pleasure providing you with care during this 
hospitalization.  
 
Followup Instructions:
___